### PR TITLE
[Merged by Bors] - feat(SetTheory/Ordinal/Enum): more lemmas on `enumOrd`

### PR DESCRIPTION
**Pull request by vihdzp**
---

I'm not completely sure that `id_le_enumOrd` and `le_enumOrd_apply` is how these two lemmas should be named.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Enum.lean [hunk 1]
```diff
@@ -61,6 +61,26 @@ theorem enumOrd_mem (hs : ¬ BddAbove s) (o : Ordinal) : enumOrd s o ∈ s :=
 theorem enumOrd_strictMono (hs : ¬ BddAbove s) : StrictMono (enumOrd s) :=
   fun a b ↦ (enumOrd_mem_aux hs b).2 a
 
+theorem enumOrd_injective (hs : ¬ BddAbove s) : Function.Injective (enumOrd s) :=
+  (enumOrd_strictMono hs).injective
+
+theorem enumOrd_inj (hs : ¬ BddAbove s) {a b : Ordinal} : enumOrd s a = enumOrd s b ↔ a = b :=
+  (enumOrd_injective hs).eq_iff
+
+theorem enumOrd_le_iff (hs : ¬ BddAbove s) {a b : Ordinal} :
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Enum.lean:70]:
```suggestion
theorem enumOrd_le_enumOrd (hs : ¬ BddAbove s) {a b : Ordinal} :
```
to avoid confusion with `enumOrd a ≤ b ↔ a ≤ g b`

File: Mathlib/SetTheory/Ordinal/Enum.lean [hunk 2]
```diff
@@ -61,6 +61,26 @@ theorem enumOrd_mem (hs : ¬ BddAbove s) (o : Ordinal) : enumOrd s o ∈ s :=
...
+    enumOrd s a ≤ enumOrd s b ↔ a ≤ b :=
+  (enumOrd_strictMono hs).le_iff_le
+
+theorem enumOrd_lt_iff (hs : ¬ BddAbove s) {a b : Ordinal} :
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Enum.lean:74]:
```suggestion
theorem enumOrd_lt_enumOrd (hs : ¬ BddAbove s) {a b : Ordinal} :
```

File: Mathlib/SetTheory/Ordinal/Enum.lean [hunk 3]
```diff
@@ -61,6 +61,26 @@ theorem enumOrd_mem (hs : ¬ BddAbove s) (o : Ordinal) : enumOrd s o ∈ s :=
...
+    enumOrd s a < enumOrd s b ↔ a < b :=
+  (enumOrd_strictMono hs).lt_iff_lt
+
+theorem id_le_enumOrd (hs : ¬ BddAbove s) : id ≤ enumOrd s :=
+  (enumOrd_strictMono hs).id_le
+
+theorem le_enumOrd_apply (hs : ¬ BddAbove s) {a} : a ≤ enumOrd s a :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Enum.lean:81]:
```suggestion
theorem le_enumOrd_self (hs : ¬ BddAbove s) {a} : a ≤ enumOrd s a :=
```
maybe?

File: Mathlib/SetTheory/Ordinal/Enum.lean [hunk 4]
```diff
@@ -116,6 +136,10 @@ theorem enumOrd_zero : enumOrd s 0 = sInf s := by
   rw [enumOrd]
   simp [Ordinal.not_lt_zero]
 
+theorem enumOrd_eq_zero (hs : 0 ∈ s) : enumOrd s 0 = 0 := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Enum.lean:139]: Can this be turned into an iff?

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Enum.lean]: No, since `enumOrd Ø 0 = 0`. I did realize this lemma wasn't very confluent with `enumOrd s 0 = sInf s`, so I instead added `csInf_eq_bot_of_bot_mem` as a lemma on CC lattices.

**Review by YaelDillies — APPROVED** [review]
maintainer merge

**Comment by fpvandoorn** [comment]
bors merge
